### PR TITLE
feat: add `List.scanl` and `List.scanr` lemmas

### PR DESCRIPTION
**Pull request by fgdorais**
Mathlib adaptation PR [mathlib4#31422](https://github.com/leanprover-community/mathlib4/pull/31422)

### CODE REVIEW

File: Batteries/Data/List/Scan.lean [hunk 1]
```diff
@@ -0,0 +1,144 @@
...
+theorem length_scanl {f : β → α → β} (b : β) (l : List α) :
+    length (scanl f b l) = l.length + 1 := by
+  induction l generalizing b <;> simp_all
+
+@[simp, grind =]
+theorem scanl_nil {f : β → α → β} (b : β) : scanl f b [] = [b] :=
+  rfl
+
+@[simp, grind =]
+theorem scanl_cons {f : β → α → β} : scanl f b (a :: l) = [b] ++ scanl f (f b a) l := by
```
Comment (kim-em) [inline Batteries/Data/List/Scan.lean]:
```suggestion
theorem scanl_cons {f : β → α → β} : scanl f b (a :: l) = b :: scanl f (f b a) l := by
```

File: Batteries/Data/List/Scan.lean [hunk 2]
```diff
@@ -0,0 +1,144 @@
...
+    (scanl f a l)[i] = foldl f a (l.take i) := by
+  induction l generalizing a i with
+  | nil => simp
+  | cons _ _ ih => cases i <;> simp [ih]
+
+theorem getElem?_scanl {f : α → β → α} :
+    (scanl f a l)[i]? = if i ≤ l.length then some (foldl f a (l.take i)) else none := by
+  grind
+
+theorem take_scanl {f : α → β → α} (a : α) (l : List β) (i : Nat) :
```
Comment (kim-em) [inline Batteries/Data/List/Scan.lean:59]:
```suggestion
@[grind _=_]
theorem take_scanl {f : α → β → α} (a : α) (l : List β) (i : Nat) :
```

File: Batteries/Data/List/Scan.lean [hunk 3]
```diff
@@ -0,0 +1,144 @@
...
+  constructor <;> cases l <;> simp_all
+
+@[simp, grind =]
+theorem getElem_scanl {f : α → β → α} (h : i < (scanl f a l).length) :
+    (scanl f a l)[i] = foldl f a (l.take i) := by
+  induction l generalizing a i with
+  | nil => simp
+  | cons _ _ ih => cases i <;> simp [ih]
+
+theorem getElem?_scanl {f : α → β → α} :
```
Comment (kim-em) [inline Batteries/Data/List/Scan.lean:54]:
```suggestion
@[grind =]
theorem getElem?_scanl {f : α → β → α} :
```

File: Batteries/Data/List/Scan.lean [hunk 4]
```diff
@@ -0,0 +1,144 @@
...
+  | succ => cases l <;> simp_all
+
+@[simp, grind =]
+theorem getElem_scanr {f : α → β → β} (h : i < (scanr f b l).length) :
+    (scanr f b l)[i] = foldr f b (l.drop i) := by
+  induction l generalizing i with
+  | nil => simp
+  | cons _ _ ih => cases i <;> simp [ih] at h ⊢
+
+theorem getElem?_scanr {f : α → β → β} (h : i < l.length + 1) :
```
Comment (kim-em) [inline Batteries/Data/List/Scan.lean:178]:
```suggestion
@[grind =]
theorem getElem?_scanr {f : α → β → β} (h : i < l.length + 1) :
```

File: Batteries/Data/List/Scan.lean [hunk 5]
```diff
@@ -0,0 +1,209 @@
...
+theorem getLast?_scanr {f : α → β → β} : (scanr f b l).getLast? = some b := by
+  simp [getLast?]
+  split
+  · exact absurd ‹_› scanr_ne_nil
+  · simp [←‹_›, getLast_scanr]
+
+theorem tail_scanr {f : α → β → β} (h : 0 < l.length) :
+    (scanr f b l).tail = scanr f b l.tail := by induction l <;> simp_all
+
+theorem drop_scanr {f : α → β → β} (h : i ≤ l.length) :
```
Comment (kim-em) [inline Batteries/Data/List/Scan.lean:164]:
```suggestion
@[grind _=_]
theorem drop_scanr {f : α → β → β} (h : i ≤ l.length) :
```
